US06110934
3-[3-(tert-Butyldimethylsilanyloxymethyl)-4-methoxyphenyl]-3-trifluoromethyl-3H -diazirine
A mixture of 3-[3-(tert-butyldimethylsilanyloxymethyl)-4-methoxyphenyl]-3-trifluoromethyldiaziridine (200 mg, 0.55 mmol) and freshly prepared Ag2O(255 mg, 1.1 mmol) in ether (3 ml) was stirred for 24 h. The solid was filtered, washed with ether, and the filtrate evaporated in vacuo. The resulting residue was purified by chromatography (SiO2, 10% ether/petrol) to give the title compound (187 mg, 94%) as a colourless oil.

reactant | 3-[3-(tert-butyldimethylsilanyloxymethyl)-4-methoxyphenyl]-3-trifluoromethyldiaziridine | 0.55 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1OC)C1(NN1)C(F)(F)F | C16H25F3N2O2Si
solvent | ether | 3 ml | CCOCC | C4H10O
product | 3-[3-(tert-Butyldimethylsilanyloxymethyl)-4-methoxyphenyl]-3-trifluoromethyl-3H -diazirine | 187 mg, 94% | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1OC)C1(N=N1)C(F)(F)F | C16H23F3N2O2Si
